US08008303B2
(4-Bromo-3-methyl-phenyl)-carbamic acid tert-butyl ester
A solution of 4-bromo-3-methyl aniline (500 mg) in methanol (20 ml) was treated with triethylamine (0.75 ml) and Boc anhydride (1.18 g) and was stirred at 20 C for 18 h. The solvent was then evaporated and the residue partitioned between water and dichloromethane. The dried extracts were then evaporated giving the title compound as a pale brown solid (770 mg).

reactant | 4-bromo-3-methyl aniline | 500 mg | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | triethylamine | 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 1.18 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 20 ml | CO | CH4O
product | (4-Bromo-3-methyl-phenyl)-carbamic acid tert-butyl ester | 770 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)Br)C)=O | C12H16BrNO2
